US07687502B2
[6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-quinazolin-4-yl]-thiazolo[5,4-b]-pyridin-2-yl-amine
The compound of Example 13 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-7-fluoro-6-iodo-quinazoline, thiazolo[5,4-b]-pyridin-2-yl-amine and 3-mercapto-4-methyl-1,2,4-triazole.

reactant | 4-chloro-7-fluoro-6-iodo-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)I)F | C8H3ClFIN2
reactant | thiazolo[5,4-b]-pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 3-mercapto-4-methyl-1,2,4-triazole | SC1=NN=CN1C | C3H5N3S
product | [6-(4-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-quinazolin-4-yl]-thiazolo[5,4-b]-pyridin-2-yl-amine | CN1C(=NN=C1)SC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C17H12N8S2
